US06616989B1
3-(5-Butylthiophen-2-yl)-5-{4-[(S)-2-fluorodecyloxy]-phenyl}-isoxazole is prepared similar to Example 6, but 3-(5-butylthiophen-2-yl)-5-(4-hydroxyphenyl)-isoxazole is etherified with (S)-2-fluoro-1-decanol by the method of Mitsunobu (diethyl azodicarboxylate/triphenylphosphine in tetrahydrofuran; Synthesis 1981, 1).

reactant | 3-(5-butylthiophen-2-yl)-5-(4-hydroxyphenyl)-isoxazole | C(CCC)C1=CC=C(S1)C1=NOC(=C1)C1=CC=C(C=C1)O | C17H17NO2S
reactant | (S)-2-fluoro-1-decanol | F[C@H](CO)CCCCCCCC | C10H21FO
reactant | diethyl azodicarboxylate triphenylphosphine | N(=NC(=O)OCC)C(=O)OCC.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(5-Butylthiophen-2-yl)-5-{4-[(S)-2-fluorodecyloxy]-phenyl}-isoxazole | C(CCC)C1=CC=C(S1)C1=NOC(=C1)C1=CC=C(C=C1)OC[C@H](CCCCCCCC)F | C27H36FNO2S
